US05840726
N-t-Butoxycarbonyl-N-(2-oxo-ethyl)-2,2-bis-phenyl-ethylamine
Combine N-t-butoxycarbonyl-N-allyl-2,2-bis-phenyl-ethylamine (0.23 g, 0.68 mmol) and dichloromethane (10 mL) and methanol (0.5 mL). Cool the -78° C. Pass ozonized oxygen through the solution until a persistent light blue color is obtained. Pass nitrogen through the solution until the blue color dissipates. Add dimethyl sulfide (2.0 mL). Allow the reaction mixture to warm to ambient temperature and stir for 5.5 hours. Concentrate in vacuo to obtain a residue. Dilute the residue with ethyl acetate and extract with water. Separate the layers, dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound.

reactant | N-t-butoxycarbonyl-N-allyl-2,2-bis-phenyl-ethylamine | 0.68 mmol, 0.23 g | C(C)(C)(C)OC(=O)N(CC=C)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H27NO2
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | oxygen | O=O | O2
reactant | dimethyl sulfide | 2.0 mL | CSC | C2H6S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 0.5 mL | CO | CH4O
product | N-t-Butoxycarbonyl-N-(2-oxo-ethyl)-2,2-bis-phenyl-ethylamine | C(C)(C)(C)OC(=O)N(CC=O)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H25NO3
